US06369078B1
1-(tert-Butoxycarbonyl)-6-methyl-2-n-undecyl-1,2,3,4-tetrahydropyridine
To a stirred solution of 2.17g, (5.65 mmol) of 1-(tert-Butoxycarbonyl)-4-chloro-6-methyl-2-n-undecyl-1,2-dihydropyridine in 120 mL of MeOH at 0° C. was added 0.422 g (5.71 mmol) of lithium carbonate followed by of 5% Pd/C. The flask was evacuated and filled with hydrogen repeatedly. The system was placed under positive pressure from a balloon, and the reaction was monitored by removing aliquots with a syringe, concentrating the aliquot in vacuo, and examing its 1H NMR spectrum. Upon completion, the mixture was filtered through Celite, and concentrated by evaporation. The residue was dissolved in ether (20 mL), water(20 mL) was added, and the aqueous phase was extracted twice with ether(2×10 mL). The combined organic extracts were washed with 1M NaOH(2×20ml) and brine. The organic products were dried over K2CO3, filtered through Celite, and concentrated in vacuo to give the crude product. Purification by column chromatography, (silica gel, 10% ether in hexanes) afforded 1.35 g (70%) the product as a light yellow oil which was homogeneous by TLC analysis. 1H NMR (300 MHz) δ4.75 (br s, 1 H), 4.62 (m, 1 H), 2.21 (s, 3 H), 1.91-1.64 (m, 4 H), 1.52 (s, 9 H), 1.28 (br s, 20 H), 0.90 (t, 3H); 13C NMR (75 MHz) 154.1 (s), 133.5 (s), 110.4 (s), 79.6 (s), 52.1 (s), 32.3 (s), 30.1 (s), 30.0 (s), 29.9 (s), 28.5 (s), 26.7 (s), 23.5 (s), 23.2 (s), 19.8 (s), 14.4 (s) ppm. FT-IR (neat) 2928, 2860, 1694, 1457, 1368, 1352, 1168, 1124, 1095, 1073 cm−1.

reactant | 1-(tert-Butoxycarbonyl)-4-chloro-6-methyl-2-n-undecyl-1,2-dihydropyridine | 5.65 mmol | C(C)(C)(C)OC(=O)N1C(C=C(C=C1C)Cl)CCCCCCCCCCC | C22H38ClNO2
reactant | lithium carbonate | 5.71 mmol, 0.422 g | C([O-])([O-])=O.[Li+].[Li+]
solvent | MeOH | 120 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 1-(tert-Butoxycarbonyl)-6-methyl-2-n-undecyl-1,2,3,4-tetrahydropyridine | 1.35 g, 70% | C(C)(C)(C)OC(=O)N1C(CCC=C1C)CCCCCCCCCCC | C22H41NO2
